US04166177
This compound is prepared by essentially the same method as described in Example 8 except that the 2,2-dioxo-6-(1,1-dimethylethyl)-8-iodo-1,2,3-benzoxathiazine is replaced by 2,2-dioxo-5,7-dimethoxy-6,8-dichloro-1,2,3-benzoxathiazine. Thereby is obtained 2,2-dioxo-3,4-dihydro-5,7-dimethoxy-6,8-dichloro-1,2,3-benzoxathiazine.

reactant | 2,2-dioxo-6-(1,1-dimethylethyl)-8-iodo-1,2,3-benzoxathiazine | O=S1(OC2=C(C=N1)C=C(C=C2I)C(C)(C)C)=O | C11H12INO3S
reactant | 2,2-dioxo-5,7-dimethoxy-6,8-dichloro-1,2,3-benzoxathiazine | O=S1(OC2=C(C=N1)C(=C(C(=C2Cl)OC)Cl)OC)=O | C9H7Cl2NO5S
product | 2,2-dioxo-3,4-dihydro-5,7-dimethoxy-6,8-dichloro-1,2,3-benzoxathiazine | O=S1(OC2=C(CN1)C(=C(C(=C2Cl)OC)Cl)OC)=O | C9H9Cl2NO5S
